US09255094B2
Preparation of 8-methyl-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound No. 1-41)
5-(2-(1-p-Tolylhydrazinyl)ethyl)-2-(trifluoromethyl)pyridine (88 mg, 0.29 mmol) was dissolved in 1,4-dioxane (2 mL) and 4-piperidone hydrate hydrochloride was added with one drop of TFA. The reaction mixture became acidic. The mixture was heated at 100° C. for 2 h. The reaction was monitored by TLC and LCMS. After completion of reaction, the mixture was diluted with sat. NaHCO3 solution and extracted with EtOAc. The organic extracts were dried over anhydrous sodium sulfate and concentrated. The compound was purified by reverse phase chromatography. 1HNMR (CD3OD, TFA salt) d (ppm): 8.20 (s, 1H), 7.60 (m, 2H), 7.25 (d, 1H), 7.18 (d, 1H), 6.98 (d, 1H), 4.40 (m, 4H), 3.50 (t, 2H), 3.20 (m, 2H), 2.82 (t, 2H), 2.40 (s, 3H).

reactant | 5-(2-(1-p-Tolylhydrazinyl)ethyl)-2-(trifluoromethyl)pyridine | 0.29 mmol, 88 mg | C1(=CC=C(C=C1)N(N)CCC=1C=CC(=NC1)C(F)(F)F)C | C15H16F3N3
reactant | 4-piperidone hydrate hydrochloride | Cl.O.N1CCC(CC1)=O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | TFA | one drop | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 8-methyl-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C(F)(F)F)CCNC3 | C20H20F3N3
